** Monkey see, monkey do
** This makes the odd TI OPA1656.LIB spice model work for me
** The TI argument order is odd, and the naming is odd too
** This tries to make both sane. Or at least sanER.
** I don't really know ngspice at all
**
** I would love to just include the whole OPA1656.LIB file,
** but it's (C) TI, so I'd better not. Go download it from
** TI, and unzip it, and put it under this repo in a "sim"
** directory
**
.subckt DUAL1656 OUTA INA- INA+ V- INB+ INB- OUTB V+
.include ../../sim/OPA1656.LIB
XU1A INA+ INA- V+ V- OUTA OPA1656
XU1B INB+ INB- V+ V- OUTB OPA1656
.ends
