.subckt OPA1664 OUTA INA- INA+ V+ INB+ INB- OUTB OUTC INC- INC+ V- IND+ IND- OUTD
.include ../../sim/OPA166x.LIB
XU1A INA+ INA- V+ V- OUTA OPA166x
XU1B INB+ INB- V+ V- OUTB OPA166x
XU1C INC+ INC- V+ V- OUTC OPA166x
XU1D IND+ IND- V+ V- OUTD OPA166x
.ends
